US06797823B1
4-(4-Amino-3-fluorophenoxy)-6-methoxy-7-quinolinol
7-(Benzyloxy)-4-(3-fluoro-4-nitrophenoxy)-6-methoxyquinoline (190 mg) was dissolved in N,N-dimethylformamide (5 ml) and triethylamine (1 ml). Palladium hydroxide (40 mg) was added to the solution, and the mixture was stirred in a hydrogen atmosphere at room temperature overnight. The solvent was removed by distillation under the reduced pressure. The residue was purified by thin-layer chromatography on silica gel by development with chloroform/methanol (20/1) to give 75 mg (yield 56%) of the title compound.

reactant | 7-(Benzyloxy)-4-(3-fluoro-4-nitrophenoxy)-6-methoxyquinoline | 190 mg | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC1=CC(=C(C=C1)[N+](=O)[O-])F)OC | C23H17FN2O5
reactant | hydrogen | [H][H] | H2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
catalyst | Palladium hydroxide | 40 mg | [OH-].[Pd+2].[OH-]
product | 4-(4-Amino-3-fluorophenoxy)-6-methoxy-7-quinolinol | 75 mg, yield 56% | NC1=C(C=C(OC2=CC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C16H13FN2O3
